US05830902
2-Bromomethyl-9H-xanthen-9-one
Benzoyl peroxide (4.6 g, 19 mmol) and N-bromosuccinimide (67.6 g, 380 mmol) were added to a mixture of 2-methyl-9H-xanthen-9-one (79.9 g, 380 mmol) and carbon tetrachloride (800 ml) with heating under reflux, and the mixture was stirred for 4 hours. After spontaneous cooling to room temperature, water was added to the reaction mixture, and the reaction product was extracted with chloroform. The extract was washed with saturated sodium bicarbonate aqueous solution, water and saturated sodium chloride aqueous solution in that order, dried over anhydrous magnesium sulfate, and then concentrated under a reduced pressure. The resulting residue was recrystallized from ethyl acetate to give the title compound (78.3 g, 271 mmol, 71%) as yellow crystals.

reactant | N-bromosuccinimide | 380 mmol, 67.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-methyl-9H-xanthen-9-one | 380 mmol, 79.9 g | CC1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | C14H10O2
reactant | carbon tetrachloride | 800 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | Benzoyl peroxide | 19 mmol, 4.6 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | water | O | H2O
product | 2-Bromomethyl-9H-xanthen-9-one | 271 mmol, 78.3 g, 71% | BrCC1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | C14H9BrO2
